US07834010B2
Preparation of intermediate 2,2,2-trichloroethyl 4-bromobutyrate
A stirred solution of 4-bromobutyric acid (3.34 g, 20.0 mmol) in toluene (50 ml) was added 2,2,2-trichloroethanol (14.94 g, 0.10 mol) and p-toluenesulfonic acid monohydrate (7.60 g, 40.0 mmol) and refluxed with a Dean-Stark trap attached for 6 h. Water was removed continuously. The reaction mixture was cooled to room temperature and concentrated in vacuo. The mixture was added CH2Cl2 (75 ml) and washed with H2O (3×25 ml). The organic layer was dried over Na2SO4, filtered and evaporated in vacuo to leave an oil. The residue was distilled to leave the title compound as a colourless oil (4.77 g, 79.9%) (bp 100° C. at 0.5 mmHg).

reactant | 4-bromobutyric acid | 20.0 mmol, 3.34 g | BrCCCC(=O)O | C4H7BrO2
reactant | 2,2,2-trichloroethanol | 0.10 mol, 14.94 g | ClC(CO)(Cl)Cl | C2H3Cl3O
reactant | p-toluenesulfonic acid monohydrate | 40.0 mmol, 7.60 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2,2-trichloroethyl 4-bromobutyrate | 4.77 g, 79.9% | BrCCCC(=O)OCC(Cl)(Cl)Cl | C6H8BrCl3O2
